US04622401
2-(3-Amino-5-methyl-2-pyrazolin-1-yl)-6-chloropyrazine
A 0.30 g. amount of sodium metal is dissolved in 100 ml. of absolute ethanol, then 6.72 g. of 2-chloro-6-hydrazinopyrazine (prepared as described above) is added and after 5 minutes, 4.6 g. of distilled crotononitrile is added. The reaction mixture is refluxed for 6 hours. The solvent is removed in vacuo and water is added to the residue to separate a gum. The gum is dissolved in dichloromethane, dried over magnesium sulfate and filtered. The filtrate is evaporated to give a gum. The gum is treated with benzene to separate yellow crystals. The crystals are collected, dried and recrystallized from acetone-hexane to give 1.4 g of the desired product as yellow crystals, m.p. 147°-148° C.

reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | 2-chloro-6-hydrazinopyrazine | ClC1=NC(=CN=C1)NN | C4H5ClN4
reactant | crotononitrile | C(\C=C\C)#N | C4H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(3-Amino-5-methyl-2-pyrazolin-1-yl)-6-chloropyrazine | 1.4 g | NC1=NN(C(C1)C)C1=NC(=CN=C1)Cl | C8H10ClN5
